US05395815
Preparation Example 8: Preparation of 4-(N-octadecylsulfonylamino)phenol (Example 25)
Under a nitrogen atmosphere, sodium octadecanesulfonate (357 g) was suspended in dimethylformamide (600 ml) and thereto was added dropwise thionyl chloride (119 g) over a period of about 30 minutes. After completion of the addition, the suspension was heated at 80° C. for 1 hour to prepare the corresponding sulfonic acid chloride. The reaction mixture was cooled and thereto were added p-aminophenol (109 g) and triethylamine (202 g), followed by refluxing with heating for 3 hours. After completion of the reaction, the reaction mixture was poured into water to precipitate a white solid. Thereto was added 5% hydrochloric acid to adjust the pH to acidic state and then, the white solid was filtered off under reduced pressure and then recrystallized from methyl ethyl ketone to obtain the desired product (302 g). Yield 71%; m.p. 142° C.

reactant | sodium octadecanesulfonate | 357 g | C(CCCCCCCCCCCCCCCCC)S(=O)(=O)[O-].[Na+]
reactant | thionyl chloride | 119 g | S(=O)(Cl)Cl | Cl2OS
reactant | p-aminophenol | 109 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | triethylamine | 202 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(N-octadecylsulfonylamino)phenol | 302 g, Yield 71% | C(CCCCCCCCCCCCCCCCC)S(=O)(=O)NC1=CC=C(C=C1)O | C24H43NO3S
